US07629346B2
5-Bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid methyl ester
To a suspension of 6.8 g (0.022 mol) 5-amino-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid methyl ester in 150 ml dibromomethane was added 3.50 ml (3.052 g; 0.026 mol) isoamylnitrite. To the resulting suspension was added drop wise during 30 minutes a solution of 3.38 ml (3.38 g; 0.026 mol) trimethylbromosilane in 5 ml dibromomethane at 0° C. The mixture was stirred at 0° C. for 0.5 hours and 2 hours at room temperature. To the resulting turbid reaction mixture was added ca 150 ml of a 10% aqueous sodium bicarbonate solution with stirring. The phases were separated the organic phase was dried over magnesium sulfate, evaporated and purified by chromatography on silica gel with a gradient of 100% heptane to 10% ethyl acetate in heptane to yield 6.38 g of the title compound as off white crystalline solid. MS (ISP) (M+H+)=377.0 and 379.0.

reactant | 5-amino-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid methyl ester | 0.022 mol, 6.8 g | COC(=O)C1=NC(=C(N=C1)N)C1=CC=C(C=C1)OC(F)(F)F | C13H10F3N3O3
reactant | isoamylnitrite | 0.026 mol, 3.50 ml, 3.052 g | C(CC(C)C)ON=O | C5H11NO2
reactant | trimethylbromosilane | 0.026 mol, 3.38 ml, 3.38 g | C[Si](Br)(C)C | C3H9BrSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dibromomethane | 150 ml | BrCBr | CH2Br2
solvent | dibromomethane | 5 ml | BrCBr | CH2Br2
product | 5-Bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid methyl ester | 6.38 g | COC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)OC(F)(F)F | C13H8BrF3N2O3
